US06544985B2
3-(5-Bromomethyl-thiazol-4-yl)-benzoic acid methyl ester was stirred in DMF (10 mL) together with KOAc (1.52 g) at 20° C. for 30 min. MeOH (20 mL) and NaOMe (0.84 g) were added and stirring was continued at 50° C. for 30 min. The mixture was partitioned between AcOEt and brine and the organic layer was dried and evaporated. The residual oil was chromatographed on silica gel using AcOEt/hexane (1:2) as eluent to give 3-(5-hydroxymethyl-thiazol-4-yl)-benzoic acid methyl ester (1.43 g) as a white solid.

reactant | 3-(5-Bromomethyl-thiazol-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1N=CSC1CBr)=O | C12H10BrNO2S
reactant | KOAc | 1.52 g | CC(=O)[O-].[K+]
reactant | MeOH | 20 mL | CO | CH4O
reactant | NaOMe | 0.84 g | C[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(5-hydroxymethyl-thiazol-4-yl)-benzoic acid methyl ester | 1.43 g | COC(C1=CC(=CC=C1)C=1N=CSC1CO)=O | C12H11NO3S
